US07056918B2
To a pyridine (1.5 mL) solution of 2-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-oxo-3-m-tolyl-propionitrile (0.113 g) at 23° C. was added hydroxylamine hydrochloride (0.071 g). The reaction was heated to 30° C. for 1 hour then to 55° C. for 3 hours, cooled and extracted into ethyl acetate from 10% citric acid. The organic layer was dried over sodium sulfate and concentrated. The resulting powder was triturated with methanol and filtered to give 5-(5-Amino-3-m-tolyl-isoxazol-4-yl)-1,3-diethyl-1,3-dihydro-benzoimidazol-2-one (0.085 g).

reactant | 2-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-oxo-3-m-tolyl-propionitrile | 0.113 g | C(C)N1C(N(C2=C1C=CC(=C2)C(C#N)C(C=2C=C(C=CC2)C)=O)CC)=O | C21H21N3O2
reactant | hydroxylamine hydrochloride | 0.071 g | Cl.NO
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 5-(5-Amino-3-m-tolyl-isoxazol-4-yl)-1,3-diethyl-1,3-dihydro-benzoimidazol-2-one | 0.085 g | NC1=C(C(=NO1)C=1C=C(C=CC1)C)C1=CC2=C(N(C(N2CC)=O)CC)C=C1 | C21H22N4O2
